US07358244B2
(a) Hydroxydithien-2-ylacetic Acid Methyl Ester
2-Bromothiophene (9.68 mL, 0.1 mol) was slowly added to a stirred mixture of magnesium turnings (2.7 g, 0.11 mol) in diethyl ether (100 mL) under a nitrogen atmosphere at 0° C. The reaction mixture was stirred at 35° C. for 3 h and then dimethyl oxalate (5.9 g, 0.05 mol) in diethyl ether (150 mL) was added dropwise. The reaction mixture was heated at reflux (45° C.) for 45 min and then the mixture was allowed to cool to ambient temperature and 1.25 M sulfuric acid (150 mL) was added. The reaction mixture was stirred at ambient temperature for 1 h and then the organic layer was separated and washed with dilute aqueous sodium bicarbonate solution (100 mL), water (100 mL), dried with sodium sulfate, filtered and concentrated under reduced pressure. The resulting solid residue was recrystallized from tetrachloromethane (˜1 g/3 mL) to yield the title compound (7.68 g, 30 mmol, 60%).

reactant | 2-Bromothiophene | 0.1 mol, 9.68 mL | BrC=1SC=CC1 | C4H3BrS
reactant | magnesium | 0.11 mol, 2.7 g | [Mg] | Mg
reactant | dimethyl oxalate | 0.05 mol, 5.9 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | sulfuric acid | 1.25 M, 150 mL | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | Hydroxydithien-2-ylacetic Acid Methyl Ester | 30 mmol, 7.68 g, 60% | COC(C(C=1SC=CC1)(C=1SC=CC1)O)=O | C11H10O3S2
